US08138181B2
Step 3B: Preparation of 4-iodo-8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline:
To tert-butyl 2-methoxy-6-(3-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-3-oxoprop-1-ynyl)phenylcarbamate (2.51 g, 5.39 mmol) and sodium iodide (16.2 g, 108 mmol) was added acetic acid/formic acid (5 mL/5 mL). The reaction vessel was purged with N2 and heated to 60° C. for 3 hours. The reaction was then cooled to ambient temperature and diluted with H2O/DCM (50 mL/100 mL), followed by extraction with DCM. The combined organics were washed with saturated NaHCO3, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography (EtOAc/MeOH 10:1) provided the desired product (92%).

reactant | tert-butyl 2-methoxy-6-(3-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-3-oxoprop-1-ynyl)phenylcarbamate | 5.39 mmol, 2.51 g | COC1=C(C(=CC=C1)C#CC(=O)C1=CN=C2N1C=CC(=C2)OCCOC)NC(OC(C)(C)C)=O | C25H27N3O6
reactant | sodium iodide | 108 mmol, 16.2 g | [I-].[Na+]
solvent | acetic acid formic acid | 5 mL | C(C)(=O)O.C(=O)O
product | 4-iodo-8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline | 92% | IC1=CC(=NC2=C(C=CC=C12)OC)C1=CN=C2N1C=CC(=C2)OCCOC | C20H18IN3O3
